US05556977
4-[2-[4-(4-pyridyl)piperazin-2-one-1-yl]acetyl]phenoxyacetic acid monohydrochloride
A solution of methyl 4-[2-(piperazin-2-one-1-yl)acetyl]phenoxyacetate (0.347 g), 4-chloropyridine hydrochloride (0.19 g) and triethylamine (0.178 g) in water (8 ml) and dioxan (1 ml) was heated on a steam bath for 2 hours and then evaporated to dryness. The residue was triturated with water (2 ml) and filtered. The solid thus obtained was recrystallised from water to give the title compound (0.187 g), m.p. 275°-277° C.; NMR(d6DMSO δ8.33(2H,d), 8.0(2H,d), 7.21(2H,d), 7.1(2H,d), 4.97(2H,s), 4.81(2H,s), 3.94(2H,m), 3.59(2H,m); m/e 370(M+H)+ ; calculated for C19H20N3O5Cl. 0.75 H2O: C, 54.4; H, 5.0; N, 10.0. Found: C, 54.5; H, 5.3; N, 9.5%.

reactant | methyl 4-[2-(piperazin-2-one-1-yl)acetyl]phenoxyacetate | 0.347 g | N1(C(CNCC1)=O)CC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C15H18N2O5
reactant | 4-chloropyridine hydrochloride | 0.19 g | Cl.ClC1=CC=NC=C1
reactant | triethylamine | 0.178 g | C(C)N(CC)CC | C6H15N
solvent | water | 8 ml | O | H2O
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
product | 4-[2-[4-(4-pyridyl)piperazin-2-one-1-yl]acetyl]phenoxyacetic acid monohydrochloride | 0.187 g | Cl.N1=CC=C(C=C1)N1CC(N(CC1)CC(=O)C1=CC=C(OCC(=O)O)C=C1)=O | InChI=1S/C19H19N3O5.ClH/c23-17(14-1-3-16(4-2-14)27-13-19(25)26)11-22-10-9-21(12-18(22)24)15-5-7-20-8-6-15;/h1-8H,9-13H2,(H,25,26);1H
